US09085534B2
3-[(4-cyanobenzyl)amino]pyridine-4-carboxylic acid
3-Fluoroisonicotinic acid (100 mg, 0.71 mmol), 4-(aminomethyl)-benzonitrile hydrochloride (240 mg, 1.42 mmol), and DIEA (250 μL, 1.42 mmol) were combined in DMA (2 mL) and the reaction mixture was stirred at 166° C. in a microwave for 90 min. The solution was concentrated in vacuo and purified by silica gel chromatography (10-20% MeOH/DCM). The semi-pure fractions were concentrated and then taken up in water to give a pale yellow precipitate, which was collected by filtration and dried under vacuum to give 32 mg (18%) of the title compound. 1H NMR (500 MHz, DMSO-d6): δ 8.10 (br s, 1H), 8.04 (s, 1H), 7.83 (d, 1H, J=5.0 Hz), 7.81 (d, 2H, J=8.0 Hz), 7.58 (d, 1H, J=5.0 Hz), 7.54 (d, 2H, J=8.0 Hz), 4.69 (s, 2H). [M+H] calc'd for C14H11N3O2, 254; found 254.

reactant | 3-Fluoroisonicotinic acid | 0.71 mmol, 100 mg | FC1=C(C(=O)O)C=CN=C1 | C6H4FNO2
reactant | 4-(aminomethyl)-benzonitrile hydrochloride | 1.42 mmol, 240 mg | Cl.NCC1=CC=C(C#N)C=C1
reactant | DIEA | 1.42 mmol, 250 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
product | 3-[(4-cyanobenzyl)amino]pyridine-4-carboxylic acid | 32 mg, 18% | C(#N)C1=CC=C(CNC=2C=NC=CC2C(=O)O)C=C1 | C14H11N3O2
